US07608623B2
1.5 TIPPS-3-hydroxyamidino-(L)-phenylalanine-4-ethoxy-carbonylpiperazide (WX-671)
TIPPS-3-cyano-(L)-phenylalanine-4-ethoxycarbonylpiperazide (130 g; 196 mmol; 90% purity), hydroxylamine hydrochloride (22 g; 313 mmol) and triethylamine (63 g; 626 mmol) were dissolved in 470 ml of ethanol and stirred at RT for 1 day. After evaporating the solvent, the residue was taken up in 300 ml of ethyl acetate and extracted in each case 2× with 5% KHSO4, 5% NaHCO3 and distilled water. After evaporating the solvent, the crude product was dried under vacuum and then recrystallized from ethyl acetate/ether.

reactant | TIPPS 3-cyano-(L)-phenylalanine-4-ethoxycarbonylpiperazide | 196 mmol, 130 g | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)C#N)=O
reactant | hydroxylamine hydrochloride | 313 mmol, 22 g | Cl.NO
reactant | triethylamine | 626 mmol, 63 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 470 ml | C(C)O | C2H6O
product | TIPPS 3-hydroxyamidino-(L)-phenylalanine-4-ethoxy-carbonylpiperazide | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)ON1CC(N(CC1)C([C@@H](N)CC1=CC(=CC=C1)C(NO)=N)=O)=C=O | InChI=1S/C20H10I4O4.C17H23N5O4.2Na/c21-13-5-9(6-14(22)18(13)25)17(10-7-15(23)19(26)16(24)8-10)11-3-1-2-4-12(11)20(27)28;1-2-26-21-6-7-22(14(10-21)11-23)17(24)15(18)9-12-4-3-5-13(8-12)16(19)20-25;;/h1-8,25H,(H,27,28);3-5,8,15,25H,2,6-7,9-10,18H2,1H3,(H2,19,20);;/q;;2*+1/p-2/t;15-;;/m.0../s1
